2112-04-17 07:10:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   Patient's family would like to hold off on EGD for now given his
   Zenker's diverticulum and risk of injury. Repeat CBC have been stable
   and VSS. Changed diet to clears per GI. Gave robitussin for cough.
   switched to nectart thickened liquids. Wrote for 1/2 NS given Na 147.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2112-4-16**] 08:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-4-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-17**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 78 (72 - 110) bpm
   BP: 129/73(62) {104/54(53) - 155/108(117)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,858 mL
                                                                     10 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                    273 mL
                                                                     10 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  3,175 mL
                                                                    410 mL
   Urine:
                                                                  3,175 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,317 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   116 K/uL
   10.1 g/dL
   139 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   63 mg/dL
   118 mEq/L
   147 mEq/L
   28.5 %
   22.3 K/uL
        [image002.jpg]
                             [**2112-4-16**]  04:37 AM
                             [**2112-4-16**]  09:50 AM
                             [**2112-4-16**]  02:09 PM
                             [**2112-4-16**]  06:20 PM
                             [**2112-4-16**]  10:54 PM
                             [**2112-4-17**]  03:42 AM
   WBC
   11.1
   22.3
   Hct
   23.3
   26.5
   30.5
   29.5
   29.7
   28.5
   Plt
   127
   116
   Cr
   1.3
   1.5
   Glucose
   133
   139
   Other labs: PT / PTT / INR:16.3/33.8/1.5, D-dimer:467 ng/mL,
   Fibrinogen:335 mg/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: cxr
   Microbiology: ngtd
   Assessment and Plan
   A/P: 88 yo M with Parkinson's dementia, CHF, hypothyroidism who
   presented after an unwitness fall concerning for syncope, subsequently
   found to have Hct drop and upper GI bleed awaiting endoscopy.
   .
   # Upper GI Bleed. NG lavage with +coffee grounds. Hct baseline 43 in
   [**2104**], on admit 29 here.
   -  transfusion Hct goal Hct >25
   - q8h hct
   - telemetry
   - two large bore IVs
   - Active T&C
   - EGD on tuesday per family request
   - IV PPI [**Hospital1 **]
   .
   # Syncope. Likely vasovagal given strain with stool vs. volume
   depletion from GIB. Head CT wnl.
   - monitor on tele
   - rx of GIB as above
   - TTE
   .
   # Parkinson's. Cont Donepezil and Namenda in AM after EGD. Appreciate
   [**Female First Name (un) **] input. 1:1 sitter o/n. Also with hearing loss with b/l aids.
   .
   # Hypertension. Monitor closely, holding off on lasix and
   antihypertensives given GIB.
   .
   # CHF. Clincally dry on exam. Murmur c/w MR. [**First Name (Titles) **] [**Last Name (Titles) 2891**], ?[**12-26**] to
   [**Month/Day (2) 498**] Cr. No evidence of CHF on exam, clear CXR. [**Month (only) 60**] need lasix with
   blood. Assess clinically.
   - in for repeat TTE
   .
   # ARF. Unclear baseline, Cr. 1.1 in [**2104**], currently Cr. 1.5. Likely
   pre-renal. Anticipate improvement with hydration and blood.
   - poor po intake in setting  only clears
   - will give gentle IVF with 1/2 normal saline
   .
   # Coagulopathy- ?nutritional. LFTs wnl. Albumin low at 3.1.
   - follow INR
   .
   # Hematuria
   - likely foley trauma, will place on bladder irrigation, if still with
   hematuria then consult Urology
   .
   # Leukocytosis. WBC [**Year (4 digits) 498**] to 11.6. Has chronic cough. No infiltrate
   on CXR. Bands 4. U/A negative.
   - resend sputum and urine, consider c.diff
   - cx blood if spikes
   - hold off on abx coverage given no clear source
   .
   # Hypothyroid. TSH 2.6. Continue Levothyroxine at home dose.
   .
   # H/o multiple myeloma. s/p Thalidomide. Unclear history. Obtain more
   information in AM. ?bony lesion on CT C-spine and [**Year (4 digits) 498**] Cr
   concerning for active disease.
   .
   # FEN. Switched to thickened liquids, will need S&S evaluation. Replete
   lytes prn. No standing fluids, bolus for hypotension.
   .
   # Dispo: call out in afternoon if HCT stable, patient still having
   melena
   .
   # Access: two large bore PIVs
   .
   # PPx: PPI IV BID (2x 20g), no bowel reg, boots
   .
   # Code: Full
   ICU Care
   Nutrition:
   Comments: thick liquids
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-4-16**] 12:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: possible transfer out this morning

2112-04-17 07:45:00 Physician Attending Progress Note
Chief Complaint: GI bleed/acute blood loss anemia/hypotension
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 year old male with Parkinson's, CHF, remote MM admitted from ED
   today after an unwitnessed fall. While on the toilet straining w/BM, he
   felt dizzy and fell, no injury, no CP/SOB, unclear if definite LOC.
   Found by his wife on the bathroom floor. On EMS arrival, SBP 80's w/n'l
   ECG. In ED, P77, BP 99/59, R 26. Got at least 1 liter NS with SBP
   increase to 100's. Guiac negative at that time. Transferred to 11
   [**Hospital Ward Name 89**].
   At 8 pm, he had a large melanic BM. Hemodynamically stable. Got a
   couple boluses NS. GI consulted who plan EGD in am. Hct fell from 29 in
   ED to 24.5; baseline 43 but from several yrs ago. 1 unit blood
   transfusion ordered.
   Currently without CP, abd pain, SOB.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2112-4-16**] 08:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-4-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 78 (72 - 110) bpm
   BP: 129/73(62) {104/54(62) - 155/108(117)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,858 mL
                                                                     83 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                    273 mL
                                                                     83 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  3,175 mL
                                                                    410 mL
   Urine:
                                                                  3,175 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,317 mL
                                                                   -328 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   116 K/uL
   139 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   63 mg/dL
   118 mEq/L
   147 mEq/L
   28.5 %
   22.3 K/uL
        [image002.jpg]
                             [**2112-4-16**]  04:37 AM
                             [**2112-4-16**]  09:50 AM
                             [**2112-4-16**]  02:09 PM
                             [**2112-4-16**]  06:20 PM
                             [**2112-4-16**]  10:54 PM
                             [**2112-4-17**]  03:42 AM
   WBC
   11.1
   22.3
   Hct
   23.3
   26.5
   30.5
   29.5
   29.7
   28.5
   Plt
   127
   116
   Cr
   1.3
   1.5
   Glucose
   133
   139
   Other labs: PT / PTT / INR:16.3/33.8/1.5, D-dimer:467 ng/mL,
   Fibrinogen:335 mg/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
    Physical Examination
   General Appearance: Well nourished, No acute distress, No(t)
   Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, mucous membranes dry
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: Systolic, No(t) Diastolic), [**1-28**] apical HSM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ), few rales
   which clear w/coughing
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese. (+)Foley
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, scattered ecchymoses, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: simple
   commands, Oriented (to): person, time not place ([**State **]), Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal, 5/5 strength
   Assessment and Plan
   88 year old male w/Parkinson after unwitnessed fall, w/subsequent GI
   hemorrhage/acute blood loss anemia/hypotension
   1. GI hemorrhage/hypotension: limited NG lavage on floor w/coffee grds,
   1 additional episode of melana here. Source likely upper GI (gastritis,
   PUD, etc.). On IV PPI [**Hospital1 **], transfuse 1 unit pTBC, serial Hct's, type
   and cross. Gi consulted and will scope tomorrow.
   2. Dizziness with possible syncope: leading possibilies include
   hypovolemic/orthostatic given upper GI bleed, vs. vagal as he was
   straining to have a BM. On telemetry to monitor for arrhythmia. TIA/CVA
   less likely given lack of focal neuro s/sx and unchanged head CT.
   3. Parkinson's: oral meds held pending EGD. has 1:1 sitter.
   4 hypotension: Currently improved, now hypertensive after fluid
   resuscitiation. Given ongoing GI bleed and no prior hx of HTN, no
   treatment for now.
   5. CHF: specifics unknown. Does not overtly appear fluid overloaded but
   will watch as he may require lasix if he becomes dyspneic.
   6. ARF: Baseline Cr 1.1, now increased. Suspect due to pre-renal
   azotemia & high BUN is likely from GI bleed. Will recheck w/further
   resuscitation
   7. Coagulopathy: Could represent limited nutrition - albumin is 3,
   which may be artificially high/concentrated as he appears hypvolemic.
   DIC panel pending, though suspicion low.
   8. Leukocytosis: no obvious evidence of infxn otherwise. Cultures
   pending.
   9. right lung nodule, C-spine abnormalities: further imaging
   (potentially outpt) when stable
   88 year old male w/Parkinson admitted last night after unwitnessed
   fall, w/subsequent GI hemorrhage/acute blood loss anemia/hypotension
   1. GI hemorrhage/hypotension:Likely UGIB,  HCt fell to 23.9, s/p 3
   UPRBC/ On IV PPI [**Hospital1 **],  serial Hct's, type and cross. Gi consulted and
   will possibly scope tomorrow.
   2. Dizziness with possible syncope: leading possibilies include
   hypovolemic/orthostatic given upper GI bleed, vs. vagal as he was
   straining to have a BM. On telemetry to monitor for arrhythmia. TIA/CVA
   less likely given lack of focal neuro s/sx and unchanged head CT.
   3.  hypotension: Currently improved, now hypertensive after fluid
   resuscitiation. Given ongoing GI bleed and no prior hx of HTN, no
   treatment for now.
   5. CHF: specifics unknown. Does not overtly appear fluid overloaded but
   will watch as he may require lasix if he becomes dyspneic.
   6. ARF: Baseline Cr 1.1, now increased. Suspect due to pre-renal
   azotemia & high BUN is likely from GI bleed. Will recheck w/further
   resuscitation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-4-16**] 12:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2112-04-18 06:15:00 Physician Resident Progress Note
Chief Complaint: Melena
   24 Hour Events:
 URINE CULTURE - At [**2112-4-17**] 12:02 PM
   - Called out overnight, awaiting Bed
   - GI: No plans to scope if Hct stable - if changes will scope tuesday
   unless emergent.
   - Hct stable on q8 checks although trending down ever so slowly
   - Hypernatremia improved with D5.  Continued with q6 checks overnight.
   Plan to call out in the AM.
   - Will need S/S once question of scope is addressed.  In interim, on
   thickened fluids only for now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2112-4-16**] 08:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-4-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-18**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 84 (65 - 90) bpm
   BP: 139/78(89) {98/59(52) - 139/113(117)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,185 mL
                                                                    602 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                  1,975 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    465 mL
   Urine:
                                                                  1,580 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    605 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), early
   systolic murmur best heard at apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriolaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   123 K/uL
   9.4 g/dL
   135 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   50 mg/dL
   113 mEq/L
   144 mEq/L
   27.5 %
   21.9 K/uL
        [image002.jpg]
                             [**2112-4-16**]  04:37 AM
                             [**2112-4-16**]  09:50 AM
                             [**2112-4-16**]  02:09 PM
                             [**2112-4-16**]  06:20 PM
                             [**2112-4-16**]  10:54 PM
                             [**2112-4-17**]  03:42 AM
                             [**2112-4-17**]  09:59 AM
                             [**2112-4-17**]  06:00 PM
                             [**2112-4-17**]  06:03 PM
                             [**2112-4-17**]  10:17 PM
   WBC
   11.1
   22.3
   21.9
   Hct
   23.3
   26.5
   30.5
   29.5
   29.7
   28.5
   27.6
   28.5
   27.5
   Plt
   127
   116
   123
   Cr
   1.3
   1.5
   1.5
   1.4
   1.4
   Glucose
   133
   139
   135
   137
   135
   Other labs: PT / PTT / INR:16.3/33.8/1.5, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:467 ng/mL,
   Fibrinogen:335 mg/dL, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR:
   Compared to the prior studies there is interval worsening of the
   interstitial
   opacities in perihilar areas as well as towards the periphery of the
   lungs and
   lower lobes, finding consistent with worsening pulmonary edema although
   widespread infection especially viral or mycoplasma cannot be excluded.
   There is also worsening in bibasal retrocardiac opacities which might
   represent
   atelectasis. No appreciable pleural effusion is demonstrated as well as
   there is no pneumothorax. The previously demonstrated right upper lobe
   nodule is not seen on the current study most likely representing
   summation of shadows.
   Microbiology: UCx: [**4-15**] -> Negative
   UCx: [**4-17**]: NGTD
   Assessment and Plan
   A/P: 88 yo M with Parkinson's dementia, CHF, hypothyroidism who
   presented after an unwitness fall concerning for syncope, subsequently
   found to have Hct drop and upper GI bleed awaiting endoscopy.
   .
   # Upper GI Bleed. NG lavage with +coffee grounds. Hct baseline 43 in
   [**2104**], on admit 29 here.  Hct this AM likely dilutional from free water
   replacement.  Transfuse 1 further unit this AM for Hct < 25 and
   readdress scope with GI.
   -  transfusion Hct goal Hct >25, gave 1 unit this AM, plan to repat
   post-transfusion and call out.
   - Await GI rec
s on EGD for Tuesday given Hct drop this AM.
   - q8h hct
   - telemetry
   - two large bore IVs
   - Active T&C
   - EGD on tuesday per family request,
   - IV PPI [**Hospital1 **]
   .
   #Hypernatremia: Replacing free water with D5W overnight and steadily
   improving.  Awaiting AM labs.  Trend.
   - Maintain with D5 1/2 NS as not taking good PO's.
   .
   # Syncope. Likely vasovagal given strain with stool vs. volume
   depletion from GIB. Head CT wnl.
   - monitor on tele
   - rx of GIB as above
   - TTE -> ordered, f/u read.
   .
   # Leukocytosis. Spike to low 20's in setting of bleed, but trending
   down without Abx, afebrile.  Continue to trend, f/u urine cultures,
   sputum.
   - resend sputum and urine, consider c.diff
   - cx blood if spikes
   - hold off on abx coverage given no clear source
   .
   # Parkinson's. Cont Donepezil and Namenda in AM after EGD. Appreciate
   [**Female First Name (un) **] input. 1:1 sitter o/n. Also with hearing loss with b/l aids.
   .
   # Hypertension. Monitor closely, holding off on lasix and
   antihypertensives given GIB.  [**Month (only) 60**] need lasix w. blood products.
   .
   # CHF. CXR from [**4-17**] showing increased volume overload after
   hydration.  Murmur c/w MR. [**First Name (Titles) **] [**Last Name (Titles) 2891**], ?[**12-26**] to [**Month/Day (2) 498**] Cr. No
   evidence of CHF on exam. [**Month (only) 60**] need lasix with blood. Assess clinically.
   - in for repeat TTE
   .
   # ARF. Unclear baseline, Cr. 1.1 in [**2104**], currently Cr. 1.4. Likely
   pre-renal or baseline as has not improved and making good UOP -
   euvolemic on exam.
   - Clarify baseline Cr.
   - poor po intake in setting  only clears and may need maintenence
   fluids.
   .
   # Coagulopathy- ?nutritional. LFTs wnl. Albumin low at 3.1.
   - follow INR
   .
   # Hematuria
   - likely foley trauma, will place on bladder irrigation, if still with
   hematuria then consult Urology
   .
   # Hypothyroid. TSH 2.6. Continue Levothyroxine at home dose.
   .
   # H/o multiple myeloma. s/p Thalidomide. Unclear history. Obtain more
   information in AM. ?bony lesion on CT C-spine and [**Year (4 digits) 498**] Cr
   concerning for active disease.
   .
   # FEN. Switched to thickened liquids, will need S&S evaluation. Replete
   lytes prn. No standing fluids, bolus for hypotension.  Is aspirating.
   Do not advance diet until GI states not going to scope and then will
   need speech and swallow.
   .
   # Dispo: call out in afternoon if HCT stable, patient w/o melena for >
   24 hours.
   .
   # Access: two large bore PIVs
   .
   # PPx: PPI IV BID (2x 20g), no bowel reg, boots
   .
   # Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-4-15**] 11:51 PM
   22 Gauge - [**2112-4-17**] 12:29 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI [**Hospital1 **]
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor in PM

2112-04-18 07:49:00 Physician Attending Progress Note
Chief Complaint: GI bleed/acute blood loss anemia/hypotension
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   UGI bleed with melena, Hct dropped from 40 to 24. Not scoped over
   weekend due to hx of Zenkers.
   24 Hour Events:
 URINE CULTURE - At [**2112-4-17**] 12:02 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2112-4-16**] 08:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-4-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-18**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 74 (65 - 90) bpm
   BP: 125/71(81) {98/59(52) - 139/113(117)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  2,185 mL
                                                                    720 mL
   PO:
                                                                    210 mL
           TF:
   IVF:
                                                                  1,975 mL
                                                                    662 mL
   Blood products:
   58 mL
   Total out:
                                                                  1,580 mL
                                                                    705 mL
   Urine:
                                                                  1,580 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    605 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   109 K/uL
   130 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.4 mEq/L
   44 mg/dL
   112 mEq/L
   142 mEq/L
   24.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2112-4-16**]  09:50 AM
                             [**2112-4-16**]  02:09 PM
                             [**2112-4-16**]  06:20 PM
                             [**2112-4-16**]  10:54 PM
                             [**2112-4-17**]  03:42 AM
                             [**2112-4-17**]  09:59 AM
                             [**2112-4-17**]  06:00 PM
                             [**2112-4-17**]  06:03 PM
                             [**2112-4-17**]  10:17 PM
                             [**2112-4-18**]  05:23 AM
   WBC
   22.3
   21.9
   12.8
   Hct
   26.5
   30.5
   29.5
   29.7
   28.5
   27.6
   28.5
   27.5
   24.2
   Plt
   116
   123
   109
   Cr
   1.5
   1.5
   1.4
   1.4
   1.3
   Glucose
   139
   135
   137
   135
   130
   Other labs: PT / PTT / INR:16.3/33.8/1.5, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:467 ng/mL,
   Fibrinogen:335 mg/dL, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
    General Appearance: Well nourished, No acute distress, No(t)
   Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, mucous membranes moist
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: Systolic, No(t) Diastolic), [**1-28**] apical HSM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : ,, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Crackles at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese. (+)Foley with clearing urine now.
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, scattered ecchymoses, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: simple
   commands, Oriented (to): person, time not place  (baseline)([**State **]),
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal, [**3-28**]
   strength
    88 year old male w/Parkinson after unwitnessed fall, w/subsequent GI
   hemorrhage/acute blood loss anemia/hypotension. HD and Hct stabilized.
   + Melena overnight.
   #  GI hemorrhage/hypotension:
   -          HD stable, Hct stable
   -          Scope Tuesday. Has zenker
s diverticulum
   -          Follow Hct
   -          On IV PPI [**Hospital1 **]
   -          Taking clears po, but seems to be aspirating
   # Leukocytosis/ question of aspiration given zenker
   -          No fever.
   -          ? aspiration pneumonitis on CXR LLL
   -          Check UA and sputum cxs
   -          Needs speech/swallow eventually, will allow small amount of
   thick liquids
   -          Family insists on po feeds, need to discuss with HCP (wife)
   # Dizziness with possible syncope:
   -          leading possibilies include hypovolemic/orthostatic given
   upper GI bleed, vs. vagal as he was straining to have a BM.
   -          On telemetry to monitor for arrhythmia.
   -          TIA/CVA less likely given lack of focal neuro s/sx and
   unchanged head CT.
   -          TTE pend
   # Hematuria;
   -          Improving with bladder wash
   -          Follow Hct and platelets (trending down)
   #  Parkinson's:
   -          resume home meds
   -          confusion at baseline
   # CHF:
   -          specifics unknown
   -          TTE pend
   -          W/f fluid overload. Sat 98% on RA currently, no signs of CHF
   # ARF:
   -          Baseline Cr 1.1, now increasing
   -          Continue IVF resuscitation,
 NS due to mild hypernatremia
   # Coagulopathy:
   -          Stable
   -          DIC panel neg, INR 1.5 likely nutritional
   # right lung nodule:
   -          CT chest outpt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-4-15**] 11:51 PM
   22 Gauge - [**2112-4-17**] 12:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2112-04-19 07:42:00 Physician Resident Progress Note
Chief Complaint:
   Denies abdominal pain or SOB.  No complaints.
   24 Hour Events:
   -No GI recs
   -Hcts stable overnight
   -Had continuous fluids written, and had increasing crackles and sats
   decreased slightly to 92% on RA.  Stopped fluids and received 10-20mg
   IV lasix.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2112-4-16**] 08:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-4-18**] 12:23 PM
   Furosemide (Lasix) - [**2112-4-19**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-19**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 86 (67 - 98) bpm
   BP: 108/63(73) {100/56(66) - 160/93(108)} mmHg
   RR: 21 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  2,547 mL
                                                                     10 mL
   PO:
                  10 mL
   TF:
   IVF:
                                                                  2,172 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,585 mL
                                                                  1,200 mL
   Urine:
                                                                  1,585 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    962 mL
                                                                 -1,190 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   No JVD
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loudest
   at apex
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally,
   mid-fields)
   Abd: non-tender, non-distended, + BS.
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, "hospital", Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   115 K/uL
   9.6 g/dL
   113 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.8 mEq/L
   31 mg/dL
   110 mEq/L
   139 mEq/L
   27.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2112-4-16**]  10:54 PM
                             [**2112-4-17**]  03:42 AM
                             [**2112-4-17**]  09:59 AM
                             [**2112-4-17**]  06:00 PM
                             [**2112-4-17**]  06:03 PM
                             [**2112-4-17**]  10:17 PM
                             [**2112-4-18**]  05:23 AM
                             [**2112-4-18**]  11:05 AM
                             [**2112-4-18**]  05:37 PM
                             [**2112-4-19**]  04:20 AM
   WBC
   22.3
   21.9
   12.8
   11.4
   Hct
   29.7
   28.5
   27.6
   28.5
   27.5
   24.2
   26.6
   27.5
   27.6
   Plt
   116
   123
   109
   115
   Cr
   1.5
   1.5
   1.4
   1.4
   1.3
   1.2
   Glucose
   139
   135
   137
   135
   130
   113
   Other labs: PT / PTT / INR:14.4/32.1/1.3, Differential-Neuts:80.3 %,
   Band:0.0 %, Lymph:14.8 %, Mono:3.7 %, Eos:1.0 %, D-dimer:467 ng/mL,
   Fibrinogen:335 mg/dL, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   CXR [**4-19**]:
   In comparison with study of [**4-18**], there is increase in prominence of
   interstitial markings consistent
   with overload or interstitial pulmonary edema. Poor definition of the
   hemidiaphragms suggests pleural fluid.
   Although somewhat obscured by the vascular congestion, the possibility
   of bibasilar aspiration must be seriously considered.
   Assessment and Plan
   A/P: 88 yo M with Parkinson's dementia, CHF, hypothyroidism who
   presented after an unwitness fall concerning for syncope, subsequently
   found to have Hct drop and upper GI bleed awaiting endoscopy.  Family
   declined endoscopy, no transfusions since yesterday a.m..
   .
   # Upper GI Bleed. NG lavage with +coffee grounds. Hct baseline 43 in
   [**2104**], on admit 29 here.  Transfused 1 unit yesterday for Hct < 25.
   Hemodynamically stable, no new transfusions since yesterday a.m.
   -  transfusion Hct goal Hct >25.
   - Await GI rec
s on EGD, will need to rediscuss with family
   - q 12h hct
   - telemetry
   - two large bore IVs
   - Active T&C
   - IV PPI [**Hospital1 **]
   .
   # CHF. CXR from [**4-17**] showing increased volume overload after
   hydration.  Murmur c/w MR.  Received lasix yesterday w. blood
   products.  Assess clinically.
   -          repeat TTE ordered
   -          goal: keep I/Os even.  Will need lasix with any further
   transfusions
   .
   #Hypernatremia: Normalized this a.m.
   - Holding IVF due to respiratory discomfort overnight
   - trend lytes [**Hospital1 **]
   .
   # Syncope. Likely vasovagal given strain with stool vs. volume
   depletion from GIB. Head CT wnl.
   - monitor on tele
   - rx of GIB as above
   - TTE -> ordered, f/u read.
   .
   # Leukocytosis. Spike to low 20's in setting of bleed, but trending
   down without Abx, afebrile.  Continue to trend, f/u urine cultures,
   sputum.  Resolving.
   - continue to follow, CIS
   .
   # Parkinson's. Cont Donepezil and Namenda in AM after EGD. Appreciate
   [**Female First Name (un) **] input. 1:1 sitter o/n. Also with hearing loss with b/l aids.
   .
   # Hypertension. Monitor closely, holding off on antihypertensives given
   GIB.
   .
   # ARF. Unclear baseline, Cr. 1.1 in [**2104**], currently Cr. 1.2 after
   getting lasix yesterday.  Appears to have resolved.
   .
   # Coagulopathy- ?nutritional. LFTs wnl. Albumin low at 3.1.
   - follow INR
   .
   # Hematuria: likely foley trauma, now appears clear.
   - d/c foley
   .
   # Hypothyroid. TSH 2.6. Continue Levothyroxine at home dose.
   .
   # H/o multiple myeloma. s/p Thalidomide. Unclear history. Obtain more
   information in AM. ?bony lesion on CT C-spine and elevated Cr
   concerning for active disease.
   .
   # FEN. Switch to thickened clear liquids.
   -          floor team to discuss utility of S&S evaluation.
   -          Aspiration precautions
   .
   # Dispo: call out now.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2112-4-15**] 11:51 PM
   22 Gauge - [**2112-4-17**] 12:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2112-04-19 10:26:00 Physician Attending Progress Note
Chief Complaint: comfortable
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No bleeding overnight
   24 Hour Events:
                               History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-4-18**] 12:23 PM
   Furosemide (Lasix) - [**2112-4-19**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-19**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 58 (58 - 98) bpm
   BP: 96/55(64) {89/50(59) - 160/93(108)} mmHg
   RR: 21 (17 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  2,547 mL
                                                                     10 mL
   PO:
                  10 mL
   TF:
   IVF:
                                                                  2,172 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,585 mL
                                                                  1,260 mL
   Urine:
                                                                  1,585 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    962 mL
                                                                 -1,250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), III/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered basilar)
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   115 K/uL
   113 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.8 mEq/L
   31 mg/dL
   110 mEq/L
   139 mEq/L
   27.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2112-4-16**]  10:54 PM
                             [**2112-4-17**]  03:42 AM
                             [**2112-4-17**]  09:59 AM
                             [**2112-4-17**]  06:00 PM
                             [**2112-4-17**]  06:03 PM
                             [**2112-4-17**]  10:17 PM
                             [**2112-4-18**]  05:23 AM
                             [**2112-4-18**]  11:05 AM
                             [**2112-4-18**]  05:37 PM
                             [**2112-4-19**]  04:20 AM
   WBC
   22.3
   21.9
   12.8
   11.4
   Hct
   29.7
   28.5
   27.6
   28.5
   27.5
   24.2
   26.6
   27.5
   27.6
   Plt
   116
   123
   109
   115
   Cr
   1.5
   1.5
   1.4
   1.4
   1.3
   1.2
   Glucose
   139
   135
   137
   135
   130
   113
   Other labs: PT / PTT / INR:14.4/32.1/1.3, Differential-Neuts:80.3 %,
   Band:0.0 %, Lymph:14.8 %, Mono:3.7 %, Eos:1.0 %, D-dimer:467 ng/mL,
   Fibrinogen:335 mg/dL, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   GIB
   Anemia 2ary to blood loss
   Syncope
   CHF
   Coagulopathy
   Parkinson's Dis
   Hematuria
   Hct stable overnight. Plan to defer EGD for now. Other parameters
   improving.  Will begin PO's - remains at risk for aspiration.
   ICU Care
   Nutrition:
   Comments: will begin thickened liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2112-4-15**] 11:51 PM
   22 Gauge - [**2112-4-17**] 12:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: